Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
Tachypnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with hx of ___ disease, dementia, esophageal 
motility, reactive airway disease presenting with tachypnea x2 
days. 

History is obtained from sons, ___ and ___, at bedside. ___ 
reports that pt began reporting abdominal pains 3 days prior to 
presentation, on ___ (?). She was brought to urgent care, and 
was found to have constipation by xray. She was prescribed 
miralax with prune juice and dulcolax. ___ administered these 
medications at home with passage of flatus only, without BMs. 
She was brought to the ED on ___, with persistent 
constipation, and was discharged home on ___ in the early am 
after CT abd/pelvis revealed persistent constipation. She was 
sent home with addition of lactulose, enema, and instructions to 
f/u with her PCP ___ ___. 

Since discharge from the ED on ___ in early am, her abdominal 
distension increased, and ___ noted progressive tachypnea. He 
called the ___ NP, who initially advised increased bowel 
regimen, but subsequently referred her to the ED for further 
evaluation of RR 30. 

Since introduction of escalating regimen, she had been passing 
flatus. ___ denies reports of N/V, F/C, melena, BRBPR. Pt 
reported sharp intermittent pain at LLQ and RLQ. 

___ reports that she has occasional throat clearing, without 
overt coughing. She is maintained on nectar thickened liquids 
for the most part (occasional thin liquids such as water mixed 
with apple juice) and pureed foods (has to "flow like 
applesauce"). He has not noticed more frequent choking on food, 
but has noted a little more "crackling" after eating, which she 
is often able to clear. He has not noticed any increase in ___ 
edema, and she has no reported history of VTE. She takes Boost 
x1 per day, and Ensure x2, although sometimes more Boost if she 
is able. She has not reported F/C, chest pain, or increased 
shortness of breath. 

At baseline, her son ___ stays with her through the day. Son 
___ helps at either end of the day and overnight. Three all 
live together. Pt's husband died on ___. With respect to 
mobility, she is able to get up and pivot to the commode with 
___ person assist. She always stands with shoes for purposes of 
stability, and moves with assistance of a walker. 

In the ___ ED:
VS 97.6, 82, 120/60, 94% RA--->
97.8, 77, 94/55, 28, 98% 2L NC
Exam notable for - none documented
Labs notable for WBC 11.6, Hb 10.3, plt 153
BUN 22, Cr 0.8
UA negative for infection
CT abd/pelvis without acute process

Received:
Nebs
Bisacodyl
IVF
Home medications

Pt had 3 large BMs in the ED, per family and RN notes.

On arrival to the floor, ___ confirms above history. Pt denies 
pain but appears agitation and uncomfortable.

ROS: Pt denies chest pain, SOB, reports abdominal pain, but is 
unable to provide more details or complete 10 pt ROS ___ 
dementia
 
Past Medical History:
___ Disease  
HTN 
HLD   
Esophageal dysmotility
Bilateral blindness  
Reactive airway disease 
Bronchitis 
Hypothyroidism  

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.

 
Physical Exam:
EXAM ON ADMISSION
VS: ___ 1854 Temp: 98.5 PO BP: 137/53 HR: 76 RR: 18 O2 sat: 
93% O2 delivery: RA - RR 28 measured by me, while pt is agitated 
and moving in bed
GEN: elderly, frail-appearing female lying in bed, appears 
agitated, requesting repeatedly to get out of bed
HEENT: Pupils symmetric, difficult to assess response to light 
and accommodation ___ patient moving her head, anicteric, 
conjunctiva pink, oropharynx with white plaques over tongue and 
posterior oropharynx, dry mucus membranes
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or gallops, exam limited by frequent phonation
LUNGS: bibasilar coarse crackles, no wheeze, good air movement
GI: soft, nontender, without rebounding or guarding, 
nondistended with normal active bowel sounds, no hepatomegaly 
appreciated
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: alert and oriented to person ("Rose"), place ("hospital" 
- unable to name ___, year ("___"), unable to provide any 
additional details. Cranial nerves II-XII grossly intact, moves 
all extremities spontaneously, unable to assess sensation ___ 
dementia and agitation. Coarse tremor in bilateral UEs.
PSYCH: agitated, repeatedly requesting to get out of bed, 
requesting ___ (apparently an EMT she has met on multiple 
occasions), unable to articulate reason for agitation

EXAM ON DISCHARGE
Temp: 97.7 PO BP: 139/97 HR: 57 RR: 18 O2 sat: 100% O2 delivery: 
RA 
Appears her usual baseline
Breathing is unlabored, RR probably around 20, clear lungs 
bilaterally though diminished at bases, no wheezes or rhonchi
She is taking medications in applesauce slowly with assistance 
of RN without any coughing after the medications
Abdomen is benign, NT, ND, BS+
Extremities are WWP without edema
 
Pertinent Results:
ADMISSION

___ 01:43AM BLOOD WBC-11.6* RBC-3.44* Hgb-10.3* Hct-32.8* 
MCV-95 MCH-29.9 MCHC-31.4* RDW-15.7* RDWSD-54.9* Plt ___
___ 01:43AM BLOOD Glucose-142* UreaN-22* Creat-0.8 Na-138 
K-4.8 Cl-98 HCO3-24 AnGap-16
___ 01:43AM BLOOD ALT-9 AST-47* AlkPhos-48 TotBili-0.8
___ 01:43AM BLOOD Lipase-20
___ 01:43AM BLOOD Albumin-3.8 Calcium-9.2 Phos-3.7 Mg-2.5

DISCHARGE

___ 07:31AM BLOOD WBC-9.3 RBC-3.32* Hgb-10.0* Hct-31.6* 
MCV-95 MCH-30.1 MCHC-31.6* RDW-15.1 RDWSD-53.0* Plt ___
___ 07:31AM BLOOD Glucose-100 UreaN-14 Creat-0.5 Na-142 
K-4.0 Cl-104 HCO3-22 AnGap-16
___ 07:52AM BLOOD Calcium-8.9 Phos-2.7 Mg-2.3

IMAGING STUDIES

CXR: No acute process

CT A/P: 
1. No acute process within the abdomen or pelvis to explain the 
patient's symptoms on slightly motion limited exam. 
2. Redundant sigmoid colon again noted without evidence of 
obstruction. 
3. Chronic compression deformities of T11, L1, and L2 vertebrae. 


 
Brief Hospital Course:
BRIEF SUMMARY: 

___ with advanced ___ disease, dementia, esophageal 
motility, reactive airway disease presenting with tachypnea in 
the setting of severe constipation. It was thought that she was 
tachypneic due to (1) alteration of respiratory mechanics in the 
setting of abdominal distension from constipation along with (2) 
some aspiration occurring in the setting of her chronic 
oropharyngeal and esophageal dysphagia worsened by the 
aforementioned tachypnea and missing her ___ 
medications. Tachypnea slowly resolved as her constipation 
resolved and she was kept NPO. She was evaluated by SLP during 
this resolution phase and was cleared for her usual diet. She 
appeared to return to her usual baseline and so was discharged 
to home with her usual services and her sons' excellent 
attentive care.

DETAILED SUMMARY:

# Tachypnea
# Mild intermittent hypoxia
# Acute hypoxic respiratory failure
# Esophageal dysmotility: Likely aspiration in setting of 
advanced reactive airways disease and underlying restrictive 
lung mechanics due to advanced kyphosis. This was all likely 
worsened/precipitated by progressive constipation, for which she 
is unable to compensate due to her kyphosis -- leads to 
tachypnea and then tachypnea leads to aspiration which then 
precipitates a viscious cycle of more tachypnea and aspiration. 
Missing her medications also likely contributing. SLP evaluated 
her ___ and felt she was unsafe for any PO, but she appeared to 
do better ___ so diet was advanced and she tolerated this well. 
She appeared to return to her baseline by today ___ and so was 
discharged home.
- Note: A G tube can be considered for her, if in the future she 
really cannot meet her nutritional goals and can't take meds, 
but when we involved her in the discussion she said she did not 
want one. She improved so this was not explored further, but it 
may present a potential barrier to pursuing tube placement in 
the future. 

# Constipation: Severe on presentation but now moving her 
bowels. We adjusted her bowel medications to maintain 1BM per 
day. Counselled son on the following regimen:
- Standing senna now BID, Miralax now daily
- PRN Bisacodyl given HS if no BM that day

# Acute toxic metabolic encephalopathy
# Dementia: Baseline cognitive status per ___ is "pretty high 
functioning," but apparently always thinks that it is ___ 
(with air conditioning always on at home), and is not oriented 
to events. Agitation on admission likely driven by recent 
constipation followed by repeated visits to the ED overnight. At 
home pt is maintained on low dose alprazolam which typically 
provides benefit for her anxiety and agitation. She improved by 
the AM after admission and appeared to be at her baseline for 
the remainder of her hospital stay.

# Advanced ___ disease: Slowly progressive per its usual 
course. Now quite advanced. Most of her above issues are the 
result of this condition. Her home medications were continued 
according to her precise home schedule and she did well. 
Neurology was not consulted this admission given her 
improvement. 

# Anemia: Chronic, stable
# Glaucoma: Continued home eye gtts
# Hypothyroidism: Continued levothyroxine
# Hyperlipidemia: Continued atorvastatin
# Anxiety: Continued alprazolam as needed
# Insomnia: Continued low dose home trazodone; substitute 
ramelteon for melatonin

>30 minutes spent coordinating discharge home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. ALPRAZolam 0.25 mg PO TID:PRN anxiety 
3. Atorvastatin 20 mg PO QPM 
4. carbidopa 25 mg oral QAM 
5. Carbidopa-Levodopa (___) 2 TAB PO BID 
6. Carbidopa-Levodopa (___) 1.5 TAB PO BID 
7. Carbidopa-Levodopa (___) 1 TAB PO ___ 
8. Fluticasone Propionate 110mcg 2 PUFF IH BID 
9. Hyoscyamine 0.125 mg SL TID:PRN abd pain 
10. Ipratropium Bromide Neb 1 NEB IH Q6H 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
12. Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob 
13. Levothyroxine Sodium 25 mcg PO DAILY 
14. Multivitamins W/minerals 1 TAB PO DAILY 
15. Mylanta 10 mL oral QID:PRN heartburn 
16. Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation BID 

17. PredniSONE 10 mg PO DAILY 
18. TraZODone 12.5 mg PO QHS:PRN insomnia 
19. melatonin 3 mg oral QHS 
20. Nexium 40 mg Other DAILY 
21. Senna 17.2 mg PO QHS 
22. Docusate Sodium 200 mg PO QHS 
23. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO DAILY:PRN Constipation 
RX *bisacodyl [Laxative (bisacodyl)] 5 mg 1 tablet(s) PR daily 
Disp #*30 Tablet Refills:*0 
2.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate [Peridex] 0.12 % Rinse mouth as part 
of oral care twice a day Refills:*3 
3.  Senna 17.2 mg PO BID  
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  ALPRAZolam 0.25 mg PO TID:PRN anxiety  
6.  Atorvastatin 20 mg PO QPM  
7.  Carbidopa-Levodopa (___) 2 TAB PO BID  
8.  Carbidopa-Levodopa (___) 1.5 TAB PO BID  
9.  Carbidopa-Levodopa (___) 1 TAB PO ___  
10.  carbidopa 25 mg oral QAM  
11.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
12.  Hyoscyamine 0.125 mg SL TID:PRN abd pain  
13.  Ipratropium Bromide Neb 1 NEB IH Q6H  
14.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
15.  Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob  
16.  Levothyroxine Sodium 25 mcg PO DAILY  
17.  melatonin 3 mg oral QHS  
18.  Multivitamins W/minerals 1 TAB PO DAILY  
19.  Mylanta 10 mL oral QID:PRN heartburn  
20.  Nexium 40 mg Other DAILY  
21.  Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation 
BID  
22.  Polyethylene Glycol 17 g PO DAILY  
23.  PredniSONE 10 mg PO DAILY  
24.  TraZODone 12.5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Tachypnea related to kyphosis and abdominal distension along 
with some dysphagia and aspiration
Constipation
___ disease

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted with fast breathing and low oxygen levels 
while constipated. It was thought that you might have been 
aspirating some of your food/drink. You were treated with bowel 
medications and your home medications and you improved. You were 
seen by SLP here and you were cleared for a diet.
 
Followup Instructions:
___